US04160021
A solution of 2.0 g. (0.0067 mol) of 3,5-bis-ethoxycarbamoylnitrobenzene in 150 ml. of 2B ethanol was hydrogenated over 200 mg. of 10% palladium-on-carbon at 50 psi. Reduction was complete in 1 hour, the catalyst was filtered, and to the colorless filtrate was added 1.42 g. (0.0064 mol) of 3,5-diacetyl-4,6-dihydroxy-2H-pyranone. The mixture was heated under reflux for 45 minutes, cooled and the product filtered to yield 5-acetyl-4-hydroxy-3-[1-(3,5-bis-ethoxycarbamoylphenylamino)ethylidene]-2H-pyran-2,6(3H)-dione, m.p. 234°-235° C.

reactant | 3,5-bis-ethoxycarbamoylnitrobenzene | 0.0067 mol | C(C)ONC(=O)C=1C=C(C=C(C1)C(NOCC)=O)[N+](=O)[O-] | C12H15N3O6
reactant | 3,5-diacetyl-4,6-dihydroxy-2H-pyranone | 0.0064 mol | C(C)(=O)C=1C(OC(=C(C1O)C(C)=O)O)=O | C9H8O6
catalyst | palladium-on-carbon | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 5-acetyl-4-hydroxy-3-[1-(3,5-bis-ethoxycarbamoylphenylamino)ethylidene]-2H-pyran-2,6(3H)-dione | C(C)(=O)C1=C(C(C(OC1=O)=O)=C(C)NC1=CC(=CC(=C1)C(NOCC)=O)C(NOCC)=O)O | C21H23N3O9
